US04656269
Hydrogen chloride was passed into a solution 110 mg of (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoic acid in 10 ml of methanol under ice-cooling, and the mixture was stirred overnight. The reaction mixture was evaporated to dryness under reduced pressure to obtain 150 mg of methyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride as a white powder.

reactant | Hydrogen chloride | Cl | ClH
reactant | (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoic acid | 110 mg | N[C@H](C(C(=O)O)O)CC(C)C | C7H15NO3
reactant | methanol | 10 ml | CO | CH4O
product | methyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride | 150 mg | Cl.N[C@H](C(C(=O)OC)O)CC(C)C | InChI=1S/C8H17NO3.ClH/c1-5(2)4-6(9)7(10)8(11)12-3;/h5-7,10H,4,9H2,1-3H3;1H/t6-,7?;/m0./s1
